US06211215B1
A mixture of 4-(4-benzyloxyphenyl)butyl methane sulfonate (25.0 g), imidazole (11.2 g), potassium carbonate (15.5 g) and N,N-dimethylformamide (200 ml) was stirred for 16 hours at 80° C. The reaction mixture was poured into water, and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4), and concentrated under reduced pressure. The residue was subjected to a silica gel column chromatography. From the fraction eluted with ethyl acetate-methanol (20:1, v/v), 1-[4-(4-benzyloxyphenyl)butyl]imidazole (14.0 g, 61%) was obtained. Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 97-98° C.

reactant | 4-(4-benzyloxyphenyl)butyl methane sulfonate | 25.0 g | CS(=O)(=O)OCCCCC1=CC=C(C=C1)OCC1=CC=CC=C1 | C18H22O4S
reactant | imidazole | 11.2 g | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 15.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-[4-(4-benzyloxyphenyl)butyl]imidazole | 14.0 g, 61% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCCCN1C=NC=C1 | C20H22N2O
